US08604062B2
Step d) 3-(3-Chloro-phenyl)-5-methyl-isoxazole-4-carboxylic acid
To a solution of 3-(3-chloro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester (9.1 g, 36 mmol) in ethanol (50 mL) was added aqueous sodium hydroxide (4 N, 10 mL). After heating at reflux for 1 h the mixture was cooled to room temperature and acidified with HCl (4 N, 10 mL) and water (10 mL) at 0° C. Purification by filtration and drying afforded the title compound (8.3 g, 97%) which was obtained as a white solid. Mp: 171-173° C.

reactant | 3-(3-chloro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester | 36 mmol, 9.1 g | C(C)OC(=O)C=1C(=NOC1C)C1=CC(=CC=C1)Cl | C13H12ClNO3
reactant | sodium hydroxide | 4 N, 10 mL | [OH-].[Na+]
reactant | HCl | 4 N, 10 mL | Cl | ClH
reactant | water | 10 mL | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-(3-Chloro-phenyl)-5-methyl-isoxazole-4-carboxylic acid | 8.3 g, 97% | ClC=1C=C(C=CC1)C1=NOC(=C1C(=O)O)C | C11H8ClNO3
